US06251829B1
Ethyl 2-(2-chloro-4-fluoro-5-nitrobenzoyl)oxy-3-methyl-3-butenoate (3.5 g, 10.13 mmoles) was added to a mixture of 2N NH4Cl (80 mL) in tetrahydrofuran (THF) (100 mL) at room temperature. The above mixture was cooled in an ice cold water bath and zinc dust (1.4 g, 21.4 mmoles) was added. The mixture was then stirred at room temperature for 2 hrs. The solid was removed by suction-filtration and the filtrate was concentrated under reduced pressure to give a black oily product. The crude product was subjected to a column silica gel chromatography and eluted with EtOAc/hexane (1:4) to give ethyl 2-(2-chloro-4-fluoro-5-aminobenzoyl)oxy-3-methyl-3-butenoate, 0.5 g (yield =45.6%), as an oily product. An 1H nmr (CDCl3) showed the desired product: δ 7.42 (d, 1H), 7.11 (d, 1H), 5.60 (s, 1H), 5.29 (s, 1H), 5.17 (s, 1H), 4.25 (q, 2H), 3.90 (br, 2H), 1.91 (s, 3H), 1.29 (t, 3H).

reactant | Ethyl 2-(2-chloro-4-fluoro-5-nitrobenzoyl)oxy-3-methyl-3-butenoate | 10.13 mmoles, 3.5 g | ClC1=C(C(=O)OC(C(=O)OCC)C(=C)C)C=C(C(=C1)F)[N+](=O)[O-] | C14H13ClFNO6
reactant | NH4Cl | 2N, 80 mL | [NH4+].[Cl-]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
catalyst | zinc | 21.4 mmoles, 1.4 g | [Zn] | Zn
product | ethyl 2-(2-chloro-4-fluoro-5-aminobenzoyl)oxy-3-methyl-3-butenoate | ClC1=C(C(=O)OC(C(=O)OCC)C(=C)C)C=C(C(=C1)F)N | C14H15ClFNO4
